US05385927
5 g (0.0156 mole) of 2-hydroxy-3-(1H-imidazol-4-ylmethyl)-N-α-methylbenzyl-benzenecarboximidamide prepared in 1.a) above and 50 ml of 2-propanamine are placed in a digester and are heated at 80° C. for 54 hours, then at 100° C. for 46 hours. The solvent is evaporated and the residue is purified by preparative liquid chromatography (silica: 600 g; eluent: 89:10:1 (v/v/v) mixture of dichloromethane-methanol-ammonia). After evaporation of the solvents, 3.6 g of a pale yellow solid product are obtained which are recrystallized twice from acetonitrile. 1.25 g of 2-hydroxy-3-(1H-imidazol-4-ylmethyl)-N-(1-methylethyl)-benzenecarboximidamide are obtained. Yield: 31%.

reactant | 2-hydroxy-3-(1H-imidazol-4-ylmethyl)-N-α-methylbenzyl-benzenecarboximidamide | 0.0156 mole, 5 g | OC1=C(C=CC=C1CC=1N=CNC1)C(NC(C1=CC=CC=C1)C)=N | C19H20N4O
solvent | 2-propanamine | 50 ml | CC(C)N | C3H9N
product | 2-hydroxy-3-(1H-imidazol-4-ylmethyl)-N-(1-methylethyl)-benzenecarboximidamide | 1.25 g, Yield: 31% | OC1=C(C=CC=C1CC=1N=CNC1)C(NC(C)C)=N | C14H18N4O
